US05104503
5,6-Dimethyl-2,9-decanedione
25 g. of 1-hexene-5-one were passed in a 15 ml/min flow of hydrogen into the reactor tube while the tube was irradiated for 17.5 hours inside a photoreactor equipped with sixteen 8 W low pressure mercury lamps. During irradiation the temperature inside the quartz tube averaged 65.C. The crude reaction mixture was evaporated under reduced pressure to give 8.2 g. of involatile product containing the title compound, in about 70% yield. 250 MHZ 13 C NMR (CDCl3) 208.4, 41.3, 36.5, 35.7, 29.3, 28.1, 26.2, 15.6, 13.6.

reactant | 1-hexene-5-one | C=CCCC(C)=O | C6H10O
reactant | hydrogen | [H][H] | H2
catalyst | mercury | [Hg] | Hg
product | 5,6-Dimethyl-2,9-decanedione | about 70% yield | CC(CCC(C)=O)C(CCC(C)=O)C | C12H22O2
